US09446035B2
To a solution of 3-morpholino-5-nitropyridin-4-amine (LIII) (1 eq) in MeOH was added 10% Pd/C. The solution was purged with hydrogen and stirred overnight at r.t. under hydrogen. The suspension was filtered through Celite and concentrated under vacuum to produce 5-morpholinopyridine-3,4-diamine (LIV) as a purple solid (37% yield). 1H NMR (DMSO-d6, 400 MHz,): δ 3.09-3.11 (m, 4H), 3.64-3.66 (m, 4H), 3.92 (s, 2H), 5.23 (s, 2H), 6.94 (s, 1H), 7.33 (s, 1H). ESIMS found C9H14N4O m/z 195 (M+H).

reactant | 3-morpholino-5-nitropyridin-4-amine | 1 eq | O1CCN(CC1)C=1C=NC=C(C1N)[N+](=O)[O-] | C9H12N4O3
solvent | MeOH | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 5-morpholinopyridine-3,4-diamine | 37% yield | O1CCN(CC1)C=1C(=C(C=NC1)N)N | C9H14N4O
